US08133871B2
That is, according to references (a) I. O. Kibwage, R. Busson, G. Janssen, J. Hoogmartens, H. Vanderhaeghe, Translactonization of Erythromycins, J. Org. Chem., 52, 990-996, 1987, (b) H. A. Kirst, J. A. Wind, J. W. Paschal, Synthesis of Ring-Constracted Derivatives of Erythromycin, J. Org. Chem. 52, 4359-4362, 1987, erythromycin A was treated with glacial acetic acid to give 8,9-anhydroerythromycin A 6,9-hemiketal (EM201). Successively, the compound was heated under reflux in the presence of potassium carbonate in methanol to give 8,9-anhydro-pseudoerythromycin A 6,9-hemiketal (EM701).

reactant | Erythromycin | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | C37H67NO13
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8,9-anhydroerythromycin A 6,9-hemiketal | CC[C@@H]1[C@@]([C@@H]([C@H](C2=C(C[C@@](O2)([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]3C[C@@]([C@H]([C@@H](O3)C)O)(C)OC)C)O[C@H]4[C@@H]([C@H](C[C@H](O4)C)N(C)C)O)C)C)C)O)(C)O | C37H65NO12
